US09382188B2
F) ethyl 3-cyclopropyl-3-(3-(((3-(3,3-dimethylbutyl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanoate
To a solution of 3-(3,3-dimethylbutyl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol (200 mg) in THF (5.0 mL) were added triphenylphosphine (260 mg), ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate (246 mg) and a 40% solution of diethyl azodicarboxylate in toluene (400 μL), and the reaction mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (170 mg) as a colorless oil.

reactant | 3-(3,3-dimethylbutyl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol | 200 mg | CC(CCC=1C=C(C=CC1O)C1=C(C=CC(=C1)OC)F)(C)C | C19H23FO2
reactant | triphenylphosphine | 260 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 246 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | toluene | 400 μL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-cyclopropyl-3-(3-(((3-(3,3-dimethylbutyl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanoate | 170 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC1=C(C=C(C=C1)C1=C(C=CC(=C1)OC)F)CCC(C)(C)C | C34H41FO4
